US07566699B2
4-Hydroxy-3-[2-(4-methylphenyl)ethyl]benzofuran
To a solution of 6′-hydroxy-2′-methoxycarbonylmethoxy-4-methyldihydrochalcone (0.58 g) in methanol (10 mL) was added sodium methoxide (28% methanol solution, 0.68 mL), and the mixture was heated for reflux overnight. The reaction mixture was cooled to room temperature and poured into 1 mol/L hydrochloric acid. The resulting mixture was extracted with ethyl acetate, and the extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1) to give the title compound (0.13 g).

reactant | 6′-hydroxy-2′-methoxycarbonylmethoxy-4-methyldihydrochalcone | 0.58 g | OC1=CC=CC(=C1C(C=CC1CC=C(C=C1)C)=O)OCC(=O)OC | C19H20O5
reactant | sodium methoxide | 0.68 mL | C[O-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 4-Hydroxy-3-[2-(4-methylphenyl)ethyl]benzofuran | 0.13 g | OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)C | C17H16O2
